US06107346
2-(4-Methoxybenzoyl)-3-Phenylindene
A slurry of 13.25 g (50 mmol) of 1-oxo-2-(4-methoxybenzoyl)indane in a mixture of 300 mL of ether and 300 mL of benzene was prepared. To the slurry was added 35.66 g (197 mmol) of phenylmagnesium bromide. The resulting mixture was heated to reflux for sixteen hours and poured into a mixture of ice and sulfuric acid. The mixture was allowed to separate and the organic layer was removed. The organic extract was washed with a bicarbonate solution, dried over sodium sulfate, filtered, and concentrated to a red oil. A small amount of ether was added to the oil and a crystalline precipitate formed. The crystals were removed by filtration. The filtrate was concentrated to dryness and the product crystallized from methanol to yield 9.3 g of the title compound.

reactant | 1-oxo-2-(4-methoxybenzoyl)indane | 50 mmol, 13.25 g | O=C1C(CC2=CC=CC=C12)C(C1=CC=C(C=C1)OC)=O | C17H14O3
reactant | phenylmagnesium bromide | 197 mmol, 35.66 g | C1(=CC=CC=C1)[Mg]Br
reactant | sulfuric acid | S(O)(O)(=O)=O | H2O4S
solvent | ether | 300 mL | CCOCC | C4H10O
solvent | benzene | 300 mL | C1=CC=CC=C1 | C6H6
product | 2-(4-Methoxybenzoyl)-3-Phenylindene | 9.3 g | COC1=CC=C(C(=O)C=2CC3=CC=CC=C3C2C2=CC=CC=C2)C=C1 | C23H18O2
